data/specific_train_final.csv
"CC1(C2CC1C(C(C2)O)(C)O[O:20])C.[N:10]=O>>CC1(C2CC1C(C(C2)O)(C)O[O:20][N:10]=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=CC(=CC=C1)CO[O:20].[N:10]=O>>CC1=CC(=CC=C1)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][CH2:2][C:3]1=[CH:6][C:7](=[CH:9][C:10]([CH:4]1[OH:5])[CH2:11][CH3:12])[CH3:8].[O:13][O:14]>>[CH3:1][CH2:2][C:3]1=[CH:6][C:7](=[CH:9][C:10]([CH:4]1[OH:5])([CH2:11][CH3:12])[O:13][O:14])[CH3:8] 10-10,14; 14-10,14",Room Temperature,Termination,recombine
"CC1(C2CCC(C1C2)(C[O:20])O)C.[N+:10](=O)[O-]>>CC1(C2CCC(C1C2)(C[O:20][N+:10](=O)[O-])O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(OC(=O)C)O[O:20].[N+](=O)([O-])[O:10]>>CC(OC(=O)C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC1=CC2(C(C(C1OO[O:20][N+:21](=O)[O-])(OO2)C)O)CC>>CCC1=CC2(C(C(C1OO[O:20])(OO2)C)O)CC.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC1=CC2(C(C(C1[O:20][O:21]N=O)(OO2)C)O)CC>>CCC1=CC2(C(C(C1[O:20])(OO2)C)O)CC.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=C(C(=CC=C1)C[O:21][O:20][O])C.[N+](=O)[O-]>>CC1=C(C(=CC=C1)C[O:21])C.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C(C)O[O:20].[N+](=O)([O-])[O:10]>>CC(C)C(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C2CCC(C1C2)(CO[N+](=O)[O-])[O:20])C.[N+:10](=O)[O-]>>CC1(C2CCC(C1C2)(CO[N+](=O)[O-])[O:20][N+:10](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(CO[O:10])C(C)O>>[H:20][O:10]OCC(C)C(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(C(O)(Cl)Cl)([O:21][O:20][O])Cl.[N+](=O)[O-]>>C(C(O)(Cl)Cl)([O:21])Cl.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCCCCC(CC)O[O:20].[N+](=O)([O-])[O:10]>>CCCCCCCC(CC)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH:6]([CH2:7][CH3:8])[O:5][O:4][O:3][N+:2](=[O:1])[O-:17]>>[CH3:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH:6]([CH2:7][CH3:8])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:17] 3,2-3; 3,2-2",Room Temperature,Initiation,homolyze
"CC1=CC(=C([CH:20]=[CH:21]1)C)O.[OH:10]>>CC1=CC(=C([CH:20]([CH:21]1)[OH:10])C)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)(C(CO[O:20])O)O.[N:10]=O>>CC(C)(C(CO[O:20][N:10]=O)O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(OCCO)O[O:20].[N+](=O)([O-])[O:10]>>CC(OCCO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C(=O)C)OO[O:20][N+:21](=O)[O-]>>CCC(C(=O)C)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC[C:21]1=[CH:20]C(=CC(=C1)C)CC.[OH:10]>>CCC1=CC(=C[C:21]([CH:20]1[OH:10])CC)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].C1CCC(CC1)O[O:10]>>[H:20][O:10]OC1CCCCC1.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(OCCO)O[O:10].[N:20]=O>>CCCC(OCCO)O[O:10][N:20]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1=CC=C(C=C1)CC[O:20][O:21]N=O>>C1=CC=C(C=C1)CC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C([CH:10]Cl)Cl.[O:20][O]>>C([CH:10]([O:20][O])Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C(O1)(C)[C:10]=O)/C=C\C=O.[O:20][O]>>CC1(C(O1)(C)[C:10](=O)[O:20][O])/C=C\C=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)OC(C)(C)O[O:20].[N+](=O)([O-])[O:10]>>CC(C)OC(C)(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC1=CC2(C(C(C1[O:21][O:20][O])(OO2)C)O)CC.[N+](=O)[O-]>>CCC1=CC2(C(C(C1[O:21])(OO2)C)O)CC.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:10](CO)C=O.[O:20][O]>>C[C:10](CO)(C=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC1=C(C([CH:10]C=C1)O)C.[O:20][O]>>CCC1=C(C([CH:10](C=C1)[O:20][O])O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:4][C:3]([C:5]([CH3:9])([CH2:6][OH:7])[OH:8])[O:2][OH:1]>>[H:4][C:3](=[O:2])[C:5]([CH3:9])([CH2:6][OH:7])[OH:8].[OH:1] 1,2-1;1,2-2,3;3-2,3",Room Temperature,Propagation,retroaddition
"[H:20][O:21][O].C(C(O[O:10])(Cl)Cl)Cl>>[H:20][O:10]OC(CCl)(Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCOC(CO)OO[O:20][N+:21](=O)[O-]>>CCCCOC(CO)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].C1=CC=C(C=C1)CCO[O:10]>>[H:20][O:10]OCCC1=CC=CC=C1.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(=O)[CH:20]=[CH:21]C1(C(O1)(C)C=O)C.[OH:10]>>CC(=O)[CH:20]([CH:21]C1(C(O1)(C)C=O)C)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
